US05122537
(E)-1-(N-formylaminovinyl)-2-acetoxynaphthalene (I, (A), R=CH3CO, R1 =R2 =H, n=1)
To a cooled solution of (E)-N-[2-(2-hydroxynaphth-1-yl) ethenyl] formamide (2133 mg, 10 mmol) in dry pyridine (5 ml) is added acetic anhydride (2042 mg, 20 mmol) and the mixture maintained at 0°-5° overnight. Thereupon the mixture is concentrated under vacuum, the residue dissolved in dichloromethane, the organic layer washed with water and then evaporated under reduced pressure. The crude product is crystallized from chloroform/methanol to yield pure title compound in 90% yield (2300 mg).

reactant | (E)-N-[2-(2-hydroxynaphth-1-yl) ethenyl] formamide | 10 mmol, 2133 mg | OC1=C(C2=CC=CC=C2C=C1)/C=C/NC=O | C13H11NO2
reactant | acetic anhydride | 20 mmol, 2042 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (E)-1-(N-formylaminovinyl)-2-acetoxynaphthalene | 90% yield | C(=O)N/C=C/C1=C(C=CC2=CC=CC=C12)OC(C)=O | C15H13NO3
